US04758557
14.25 g of 4-pyridone was dissolved in 250 ml of DMF, and 25 ml of ethyl bromoacetate and 31.1 g of potassium carbonate were added thereto and reacted for 2.5 hours at 60° C. After the reaction, the insoluble part was filtrated out, and the remaining filtrate solution was concentrated. The formed residue was purified with silicagel-column chromatography (chloroform/methanol=10/1-5/1), to obtain 22.8 g of 1-ethoxycarbonylmethyl-4-pyridone. This was dissolved in 400 ml of dimethoxyethane and 30 g of Lawesson's reagent was added thereto and reacted for 30 minutes, while heated under reflux. After the reaction, the reaction solution was concentrated, and the residue formed was purified with silicagel-column chromatography (chloroform/methanol=20/1) and then crystallized with dichloromethane/ether, to obtain 13.6 g of 1-ethoxycarbonylmethyl-4-thiopyridone.

reactant | 4-pyridone | 14.25 g | N1=CCC(C=C1)=O | C5H5NO
reactant | ethyl bromoacetate | 25 ml | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 31.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 1-ethoxycarbonylmethyl-4-pyridone | 22.8 g | C(C)OC(=O)CN1C=CC(C=C1)=O | C9H11NO3
